US08877780B2
To a solution of adipic acid monomethyl ester (4.8 g, 30 mmol) in DMF (30 mL), was added CDI (4.9 g, 30 mmol), and the resulting mixture was stirred under N2 at 40° C. for 1 hour. t-Butanol (4.4 g, 60 mmol) and DBU (4.6 g, 30 mmol) were added, and stirring proceeded at 40° C. for 70 hours. The mixture was poured into ether (100 mL), and this mixture was washed with 10% aq. HOAc (100 mL), 10% aq. K2CO3 (100 mL), and water (3×100 mL), dried (MgSO4), and evaporated, providing 5.1 g of hexanedioic acid tert-butyl ester methyl ester, in 78% yield; 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.59-1.67 (m, 4H), 2.21-2.26 (m, 2H), 3.67 (s, 3H).

reactant | adipic acid monomethyl ester | 30 mmol, 4.8 g | COC(CCCCC(=O)O)=O | C7H12O4
reactant | CDI | 30 mmol, 4.9 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | t-Butanol | 60 mmol, 4.4 g | C(C)(C)(C)O | C4H10O
reactant | DBU | 30 mmol, 4.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | hexanedioic acid tert-butyl ester methyl ester | 5.1 g, 78% yield | COC(CCCCC(=O)OC(C)(C)C)=O | C11H20O4
